US05550256
N-(n- Octyl)-3,4-Dihydroisoquinoline p-toluenesulfonate (Octyl Quat OTs)
3,4-Dihydroisoquinoline (1.31 g, 10.0 mmol) was dissolved in 3 ml MeOH in a 3-neck 25 ml round bottom flask fitted with a condenser, drying tube and stirrer bar, and cooled in an ice bath. n-Octyl p-toluenesulfonate (2.84g, 10.0 mmol)*, dissolved in 7.0 ml methanol, was added dropwise over about 7 minutes via an addition funnel. The ice bath was removed and replaced with an oil bath and the colorless clear solution heated to reflux for at least 8 hours during which time the reaction solution turned yellow. Removal of the methanol in vacuo gave slightly colored solid product which was triturated with about 7.5 ml acetone. The acetone insoluble solids were filtered, washed with more acetone and dried in a vacuum desiccator. Yield of colorless solids was 1.91 g. A second batch of solids was recovered from the acetone filtrate/washing and filtered, washed with acetone and dried to give 0.31 gm colorless solids.

reactant | 3,4-Dihydroisoquinoline | 10.0 mmol, 1.31 g | C1=NCCC2=CC=CC=C12 | C9H9N
reactant | n-Octyl p-toluenesulfonate | 10.0 mmol, 2.84g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCC)C | C15H24O3S
solvent | MeOH | 3 ml | CO | CH4O
solvent | methanol | 7.0 ml | CO | CH4O
product | N-(n- Octyl)-3,4-Dihydroisoquinoline p-toluenesulfonate | 0.31 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CCCCCCC)N1CC2=CC=CC=C2CC1 | InChI=1S/C17H27N.C7H8O3S/c1-2-3-4-5-6-9-13-18-14-12-16-10-7-8-11-17(16)15-18;1-6-2-4-7(5-3-6)11(8,9)10/h7-8,10-11H,2-6,9,12-15H2,1H3;2-5H,1H3,(H,8,9,10)
